Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Upper endoscopy

 
History of Present Illness:
___ yo ___ M with large cystic adenocarcinoma of 
the pancreas, inoperable due to vascular encasement s/p 
Gemcitabine last ___ presents with worsned abd pain, new cough 
and occassional dyspnea.  
.
He has been doing less well recently; his chemo cycle for this 
past week was held due to decreased counts with plan to resume 
this week. He has had a fair amount of abdominal pain, and had a 
scheduled celiac block in the near future. He comes in today 
with abdominal pain that has increased to ___. He has also been 
taking more pain medication at home recently. Per Dr. 
___ from this week, his fentanyl patch was 
increased on ___, which is 4 days ago. 
.
He has had some mild shortness of breath that is new today, no 
DOE, no orthopnea.
.
He denies any other symptoms. Specifically, no change in bowel 
habits, no bleeding, no fever, no headache, no chest pain, no 
nausea, no neurologic changes. A full review of systems was 
otherwise negative.
.
On the floor, his pain now is currently a ___, but rising.

.
Initial VS in the ED were: 98.6, 102, 105/65, 18, 100%/RA
VS on transfer 99.5, 85, 110/60, 100%/RA Neuro A&OX3 without 
deficit. Eating and drinking OK.
.
Labs significant for a Na of 126.  CBC with WBC 11.8, Hct 27.8.  
Bili, AST, ALT elevated. UA neg for UTI.
.  
CT chest/abd/pelvis: opacificiation in b/l lungs seen in ED. 
Blood cultures were sent. Abd/pelvis shows some progression of 
disease with portal vein not well visualized. 
.
Received Ceftriaxone and Azithromycin. Got 8mg IV Morphine. No 
IVF given.  
 
Past Medical History:
Mr. ___ has a history of chronic
pancreatitis and pseudocyst development.  He underwent a cyst
jejunostomy with Roux-en-Y in ___ in ___ and was 
hospitalized following this for acute on chronic pancreatitis 
with pseudocyst formation.  He was given TPN and supportive 
treatment while awaiting maturation of the pseudocyst and 
potential surgical intervention. During that admission a CT of 
the abdomen/pelvis was reported to show a 16 x 8.6 x 16cm 
multi-loculated cystic mass essentially replacing the entire 
pancreas.  He was transfered to ___ for further evaluation and 
management.  It was determined that this lesion was inoperable 
due to encasement of the blood vessels.  He underwent EUS and 
had an FNA ___, which demonstrated atypical cells, 
concerning for a mucinous neoplasm.  He underwent ERCP on 
___ which showed malignant cells consistent with 
adenocarcinoma.  Tissue biopsy has not been feasable due to the 
location/nature of the mass.
.
Other Past Medical History:  
- ___ - cholecystectomy for gallstone pancreatitis and
subsequently developed a pseudocyst.
- ___ he was reported to have undergone cyst jejunostomy with
Roux-en-Y in ___. 
- Hypertension
- Splenectomy secondary to trauma, ___

 
Social History:
___
Family History:
No known family history of pancreatic disease. No family history 
of disease he reports. 
 
Physical Exam:
ADMISSION: 
VS: 100.3 120/75 95 16 96% RA
GEN: Chronically ill appearing, dry appearing.
HEENT:  PERRLA. MMM. no LAD. no JVD. neck supple. 
Cards: RRR S1/S2 normal. no murmurs/gallops/rubs.
Pulm: No dullness to percussion, CTAB no crackles or wheezes 
appreciated.
Abd: Soft lower down, firm abdominal mass palpable in epigastric 
region. No apparent organomegaly. Mild tenderness in 
epigastrium; no rebound.
Skin: no rashes or bruising
Neuro/Psych: CNs II-XII intact with exception of visual field 
testing which was deferred but no gross abnormalities in vision 
appreciated. Oriented to hospital, unsure of name.   
.
DISCHARGE:
VS: Tm 98.5 Tc 98.5 HR 91 (81-93) BP 100/60 (94-104/60-62) RR 18 
SaO2 99% RA
GEN: Chronically ill appearing gentleman, sitting in chair, in 
no acute distress.
HEENT:  PERRLA. MMM. no LAD. no JVD. neck supple. Thrush evident 
on tongue surface.
Cards: RRR S1/S2 normal. Crescendo systolic murmur best heard at 
___, no gallops/rubs.
Pulm: No dullness to percussion, CTAB, no crackles or wheezes 
appreciated.
Abd: Soft lower down, firm abdominal mass palpable in epigastric 
region. No apparent organomegaly. Mild tenderness in 
epigastrium; no rebound.
Skin: no rashes or bruising
Neuro/Psych: CNs II-XII intact with exception of visual field 
testing which was deferred but no gross abnormalities in vision 
appreciated. Oriented to self, hospital, month and year.
 
Pertinent Results:
___ CT C/A/P:  
1. No evidence of pulmonary embolism within limitations of 
timing bolus. 
2. Opacification in bilateral lungs, right greater than left, 
with ___ pattern is concerning for infectious etiology.  
  
3. Pneumobilia likely secondary to recent stent in common bile 
duct. 
4. Hypodensities replacing most of the pancreas consistent with 
pancreatic 
pseudocyst, appears increased in size compared to ___. Combine transverse dimension is now 18 cm, previously 16 
cm.   
5. Main portal vein not clearly visualized in the study and 
appears occluded. This was better seen on prior CT scan.   
6. Right colonic wall thickening may represent reactive 
inflammation.   
7. Stable right renal hypodensity.   
8. Two splenules rather than complete spleen noted in the 
splenic bed. 
.
Labs on Admission:
___ 10:25AM BLOOD WBC-11.8* RBC-3.11* Hgb-9.4* Hct-27.8* 
MCV-89 MCH-30.0 MCHC-33.7 RDW-17.5* Plt ___
___ 10:25AM BLOOD Neuts-82.8* Lymphs-11.5* Monos-4.9 
Eos-0.4 Baso-0.3
___ 10:25AM BLOOD ___ PTT-25.3 ___
___ 10:25AM BLOOD Glucose-174* UreaN-9 Creat-0.5 Na-126* 
K-4.4 Cl-93* HCO3-24 AnGap-13
___ 10:25AM BLOOD ALT-46* AST-42* AlkPhos-673* TotBili-2.8*
___ 10:25AM BLOOD Lipase-8
___ 10:25AM BLOOD Calcium-8.5 Phos-2.8 Mg-2.0
___ 04:52PM BLOOD Lactate-1.7
.
Labs on Discharge:
___ 02:30PM BLOOD WBC-7.6 RBC-3.08* Hgb-8.7* Hct-28.3* 
MCV-92 MCH-28.3 MCHC-30.7* RDW-16.6* Plt ___
___ 07:28AM BLOOD Neuts-59 Bands-0 ___ Monos-18* 
Eos-0 Baso-0 ___ Myelos-0
___ 07:28AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+
___ 07:28AM BLOOD ___ PTT-29.2 ___
___ 07:28AM BLOOD Glucose-142* UreaN-7 Creat-0.4* Na-135 
K-3.9 Cl-102 HCO3-25 AnGap-12
___ 08:25AM BLOOD ALT-27 AST-22 LD(LDH)-144 AlkPhos-543* 
Amylase-11 TotBili-1.4
___ 08:25AM BLOOD Lipase-9
___ 07:28AM BLOOD Calcium-8.4 Phos-3.3 Mg-2.1
.
Microbiology:
___ C.diff NEG 
___ URINE CULTURE NEG
___ URINE CULTURE NEG
___ BLOOD CULTURE-PENDING INPATIENT 
___ BLOOD CULTURE-PENDING INPATIENT 
___ URINE Legionella Urinary Antigen NEG
___ BLOOD CULTURE-PENDING EMERGENCY WARD 
___ BLOOD CULTURE-PENDING EMERGENCY WARD 

 
Brief Hospital Course:
___ w/ a history of chronic pancreatitis and pseudocyst now with 
a large pancreatic malignancy most consistent with a mucinous 
cystadenocarcinoma p/w worsening abdominal pain and dyspnea with 
infiltrate on CT chest.
.
#. Abdominal pain: This is likely related to his malignancy, 
pain regimen was changed 4 days prior to admission, pain poorly 
controlled at home.  Pt denied pain and nausea during his 
admission; may be likely due to the fact that he was relatively 
inactive or the recent change in his pain regimen may have been 
in effect. We attempted to have GI place a celiac nerve block, 
as planned as an outpatient on ___. However, upper GI 
endoscopy was performed without celiac block ___ to the cystic 
masses per GI. We discharged the patient home pain free on his 
outpt pain regimen, which included fentanyl patch 150mcg/hr q72 
hrs,  Dilaudid ___ PO q3hrs prn, gabapentin 300mg TID and 
Tylenol ___ TID with PPI and simethicone.
.
#. Fever: Patient with cough (per wife), dyspnea (though not 
hypoxic), mild elevation in WBC, with infiltration on CT chest.  
B/l aspect makes atypical or fungal organism more likely however 
patient has not been neutropenic. Pt cont to be febrile while on 
CAP coverage of azithromycin and ceftriaxone in the setting of 
recent hospital admissions within the last 90 days. Antibiotic 
coverage was broadened for HCAP (azithromycin, vanc and 
cefepime). Blood cultures pending, unable to send sputum 
cultures. Urine legionella negative. Patient was discharged on 
home PO regimen of cefpodoxime 100 mg BID and doxycycline 100mg 
BID for 8 days. 
.
#. Portal Vein Compression ?Occlusion: Noted on imaging; abd 
pulsatile on exam. No evidence of bleeding on imaging, hct 
stable during admission.
.
#. Hyponatremia: Pt initially appeared fluid down on exam, 
though his BUN/Cr were not appreciably elevated. FeNa consistent 
with hypovolemic hyponatremia. Resolved during his admission 
with IV hydration.
.
# Pancreatic cancer: As per pt's primary oncologist, treating 
with Gemcitabine as an outpatient without available surgical or 
XRT options at this time. We continued Compazine, Zofran and 
Creon.
 
Medications on Admission:
FAMOTIDINE - 20 mg Tablet - 1 Tablet(s) by mouth twice a day
 FENTANYL - 100 mcg/hour Patch 72 hr - apply to skin q 72 hours  

 apply with 50mcg patch for a total of 150mcg/hr
 FENTANYL - 50 mcg/hour Patch 72 hr - apply q72h to be used with 

 100mcg/hr patch for total dosage of 150mcg/hr
 GABAPENTIN - 300 mg Capsule - 1 Capsule(s) PO TID
 HYDROMORPHONE - 4 mg Tablet - ___ Tablet(s) by mouth Q3H (every 

 3 hours) as needed for pain
 POLYETHYLENE GLYCOL 3350 -  (Prescribed by Other Provider) - 17 

 gram Powder in Packet - 17 Powder(s) by mouth once a day as 
 needed for constipation
 ACETAMINOPHEN -  (Prescribed by Other Provider) - 325 mg 
 Tablet - 2 Tablet(s) by mouth three times a day
 DOCUSATE SODIUM -  (Prescribed by Other Provider) - 100 mg 
 Capsule - 1 Capsule(s) by mouth twice a day
 SIMETHICONE - 80 mg Tablet, Chewable - 1 Tablet(s) by mouth 
 twice a day as needed for Gas
 ZOLPIDEM -  (Prescribed by Other Provider) - 10 mg Tablet - 1 
 Tablet(s) by mouth at bedtime as needed for insomnia
 PROCHLORPERAZINE MALEATE - 10 mg Tablet - 1 Tablet(s) by mouth 
 every eight (8) hours as needed for nausea         

 
Discharge Medications:
1. famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. fentanyl 100 mcg/hr Patch 72 hr Sig: One (1)  Transdermal 
every ___ (72) hours: apply with 50mcg patch for a total 
of 150mcg/hr .  
3. fentanyl 50 mcg/hr Patch 72 hr Sig: One (1)  Transdermal 
every ___ (72) hours: to be used with 100mcg/hr patch 
for total dosage of 150mcg/hr .  
4. gabapentin 300 mg Capsule Sig: One (1) Capsule PO three times 
a day.  
5. hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.  
6. lipase-protease-amylase 6,000-19,000 -30,000 unit Capsule, 
Delayed Release(E.C.) Sig: One (1) Capsule, Delayed 
Release(E.C.) PO three times a day: with meals.  
7. ondansetron HCl 4 mg Tablet Sig: One (1) Tablet PO every 
eight (8) hours.  
8. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily) as needed for constipation.  
9. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q8H (every 8 hours) as needed for nausea.  
10. zolpidem 10 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.
Disp:*30 Tablet(s)* Refills:*0*
11. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO three 
times a day as needed for pain.  
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
14. simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO twice a day as needed for gas.  
15. cefpodoxime 100 mg Tablet Sig: One (1) Tablet PO twice a day 
for 8 days.
Disp:*16 Tablet(s)* Refills:*0*
16. doxycycline hyclate 100 mg Capsule Sig: One (1) Capsule PO 
twice a day for 8 days.
Disp:*16 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic cystic adenocarcinoma

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your admission. You 
were admitted for abdominal pain. You were unable to receive 
your celiac nerve block during your admission; however, your 
pain was well controlled during your stay. You had a fever 
during your admission and you were treated with antibiotics and 
your fever resolved.  
.
Please make the following changes with your medications:
-START cefpodoxime 100mg by mouth twice daily for 8 days for 
infection/fever
-START doxycycline 100mg by mouth twice daily for 8 days for 
infection/fever.
.
Please continue all of your home medications as prescribed.
 
Followup Instructions:
___